US07230031B2
To a solution of 5-methyl-7-nitroindan-4-ol (2.78 g) in dichloromethane (20 mL) was added pyridine (3.15 mL). Adding dropwise trifluoromethanesulfonic anhydride (3.15 mL) under ice-cooling, the mixture was stirred at ambient temperature for 25 min. Adding water, the reaction mixture was acidified with 1 mol/L hydrochloric acid, and then extracted with dichloromethane. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The reaction mixture was evaporated under reduced pressure to dryness to give 5-methyl-7-nitroindan-4-yl trifluoromethanesulfonate (4.40 g).

reactant | 5-methyl-7-nitroindan-4-ol | 2.78 g | CC1=C(C=2CCCC2C(=C1)[N+](=O)[O-])O | C10H11NO3
reactant | pyridine | 3.15 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 3.15 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-methyl-7-nitroindan-4-yl trifluoromethanesulfonate | 4.40 g | FC(S(=O)(=O)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])(F)F | C11H10F3NO5S
